US04888341
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-glycidoxy-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (100 mg or 0.286 mmole) in 4 ml of glycidol was stirred at room temperature and under nitrogen for 45 minutes with 500 mg of a 1.6% solution of KOH in glycidol. The reaction mixture was decomposed with excess dry ice while immersing the flask into a water bath at room temperature. The crude reaction product was chromatographed on a silica gel column using first CHCl3 -MeOH 9.5:0.5, which elutes glycidol and pink by-products, and then CHCl3 -MeOH 9:1, which elutes the product. The product was further purified by preparative thin layer chromatography on silica gel with a mixture of CHCl3 and methanol 9:1 as the solvent. Thus, there was obtained 71 mg (33%) of the desired product, which gave indefinite decomposition on heating and provided the following compound analysis:

reactant | mitomycin A | 0.286 mmole, 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | KOH | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
reactant | glycidol | 4 ml | C1C(O1)CO | C3H6O2
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-glycidoxy-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate | 71 mg, 33% | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)OCC1CO1)C)=O)CC1C2N1)OC | InChI=1S/C17H20N2O6.CH3NO2/c1-7-13(21)12-11(14(22)15(7)25-6-8-5-24-8)9(4-20)17(23-2)16-10(18-16)3-19(12)17;2-1(3)4/h8-10,16,18,20H,3-6H2,1-2H3;2H2,(H,3,4)
